US06514974B2
1-(4-tert-Butylanilino)-4-(4-pyridylmethyl)phthalazine dihydrochloride
In the manner described in Example 45, a mixture of 1.80 g (12.68 mmol) phosphorus pentoxide, 1.73 g (12.6 mmol) triethylamine hydrochloride, 1,9 ml (12.5 mmol) 4-tertbutylaniline, and 1 g (4.2 mmol) 4-(4-pyridylmethyl)-1(2H)-phthalazinone is stirred for 4.5 h at 210° C. The frozen melt is then dissolved in dichloromethane using an ultrasonic bath, filtered off from undissolved components, and the filtrate evaporated in the RE. The oil-like residue is distributed between dichloromethane and a mixture of 20 ml water and 5 ml conc. ammonia, and the organic phase dried over anhydrous sodium sulfate, filtered and evaporated under vacuum. The residue is then stirred with 10 ml acetonitrile, filtered off from some non-transformed 4-(4-pyridylmethyl)-1(2H)-phthalazinone, and the filtrate evaporated under vacuum. Flash chromatography of the residue on silica gel with a particle size of 0.04-0.06 mm using a toluene/acetone mixture (7:3) yields a resin (free base of the title compound), which is dissolved in a mixture of 4 ml methanol and 1.5 ml of 3 N methanolic HCl. After evaporation under vacuum, recrystallization of the residue from methanol/ether, drying under HV (6 h, 80° C.), and equilibration for 16 h at 20° C. and in room atmosphere, title compound is obtained with a water content of 4.47%; m.p. 196-200° C.; ESI-MS: (M+H)+=369.

reactant | phosphorus pentoxide | 12.68 mmol, 1.80 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | triethylamine hydrochloride | 12.6 mmol, 1.73 g | Cl.C(C)N(CC)CC
reactant | 4-tertbutylaniline | 12.5 mmol, 1,9 ml | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | 4-(4-pyridylmethyl)-1(2H)-phthalazinone | 4.2 mmol, 1 g | N1=CC=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O | C14H11N3O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-tert-Butylanilino)-4-(4-pyridylmethyl)phthalazine dihydrochloride | Cl.Cl.C(C)(C)(C)C1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | InChI=1S/C24H24N4.2ClH/c1-24(2,3)18-8-10-19(11-9-18)26-23-21-7-5-4-6-20(21)22(27-28-23)16-17-12-14-25-15-13-17;;/h4-15H,16H2,1-3H3,(H,26,28);2*1H
